### PR TITLE
fix(ErdosProblems): `B` should be a subset in `346`

### PR DESCRIPTION
**Pull request by smmercuri**
- `B` should be a subset of `range A` otherwise disjoint infinite set gives a contradiction.
- AlphaProof also found a disproof of `.example` with the subset fix, due to the `IsLacunary` condition, which contradicts the limsup and liminf properties. Presumably by "very irregular sequences" ([p. 57](https://mathweb.ucsd.edu/~ronspubs/80_11_number_theory.pdf)) Erdős and Graham mean not necessarily lacunary.
- Modify the definition of `IsLacunary` to apply only to sufficiently large indices (otherwise `f` is not lacunary).

### CODE REVIEW

File: FormalConjectures/ErdosProblems/346.lean [hunk 1]
```diff
@@ -35,7 +35,7 @@ namespace Erdos346
 infinitely many terms are removed from it, `lim A (n + 1) / A n = (1 + √5) / 2`? -/
 @[category research open, AMS 11]
 theorem erdos_346 : answer(sorry) ↔ ∀ {A : ℕ → ℕ}, IsLacunary A → IsAddStronglyCompleteNatSeq A →
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/346.lean:37]: just to check, we don't need the fix for the first bullet point (for the finite subsets)?
> - $A\backslash B$ is complete for any finite subset $B$

Comment (smmercuri) [reply FormalConjectures/ErdosProblems/346.lean:37]: This is fine in this PR as that condition is defined through shifting sequences in `IsAddStronglyCompleteNatSeq`, so we are automatically excluding subsets of the range. However, I did just notice that `IsAddStronglyComplete` also has the issue with subsets, but I don't think it is actually used anywhere

```lean
/-- A set `A ⊆ M` is complete if every sufficiently large element of `M` is a subset sum of `A`. -/
def IsAddStronglyComplete (A : Set M) : Prop :=
  ∀ ⦃B : Set M⦄, B.Finite → IsAddComplete (A \ B)

Comment (mo271) [reply FormalConjectures/ErdosProblems/346.lean:37]: ok, great. then perhaps let's fix `IsAddStronglyComplete` (or remove it, if not used)

Comment (smmercuri) [reply FormalConjectures/ErdosProblems/346.lean:37]: Oh actually, the condition is not needed here in the definition. It only causes an issue in `346` because of the negation of `IsAddComplete`.

**Comment by mo271** [comment]
```lean
/-- We define a sequence `f` by the formula `f n = n.fib - (- 1) ^ n`. -/
def f (n : ℕ) : ℕ := if Even n then n.fib - 1 else n.fib + 1

/-- The sequence `f` is lacunary. -/
@[category test, AMS 11]
theorem erdos_346.f_isLacunary : ¬ IsLacunary f := by 
  delta f IsLacunary
  exact (by·norm_num+decide ∘fun ⟨a, R, H⟩=>((lt_mul_left · R|>.trans (H (1)))))
  ```
  
  There might be more problems?

**Comment by smmercuri** [comment]
> ```lean
> /-- We define a sequence `f` by the formula `f n = n.fib - (- 1) ^ n`. -/
> def f (n : ℕ) : ℕ := if Even n then n.fib - 1 else n.fib + 1
> 
> /-- The sequence `f` is lacunary. -/
> @[category test, AMS 11]
> theorem erdos_346.f_isLacunary : ¬ IsLacunary f := by 
>   delta f IsLacunary
>   exact (by·norm_num+decide ∘fun ⟨a, R, H⟩=>((lt_mul_left · R|>.trans (H (1)))))
> ```
> 
> There might be more problems?

It's false that `f` is lacunary as is currently defined (i.e. at all indices), because e.g. `f 3 = 3` while `f 4 = 2` so there is no `c > 1` such that `c * f 3 = f 4`. I think it's meant to be "eventually lacunary"; indeed

```lean
theorem erdos_346.f_isLacunary : ∃ c > (1 : ℝ), ∀ᶠ k in atTop, c * f k < f (k + 1) := by
  simp_rw [Filter.eventually_atTop,f]
  use(1)+1/16,by norm_num, 9,fun R L=> R.even_or_odd'.elim fun and true => true.elim (·▸?_) (·▸? _)
  · norm_num[‹_›▸L.trans_lt']
    use and.strongRec fun A B=>match A with|0|1=>by norm_num | S+2=> (2 *_+1).fib_add_two▸Nat.fib_add_two.symm▸(@Nat.cast_add ℝ _ _ _).symm▸(@Nat.cast_add ℝ _ _ _).symm▸?_
    exact (@Nat.cast_add ℝ _ _ _).symm▸by linarith! only[(B _) (by constructor)]
  · norm_num[parity_simps,Nat.fib_add]
    use(4).le_induction (by norm_num) (fun F a s=> (2 *F+1).fib_add_two▸ (2 *F).fib_add_two▸(@Nat.cast_add ℝ _ _ _).symm▸(@Nat.cast_add ℝ _ _ _).symm▸?_) and (by valid)
    bound[(mod_cast (2 *F).fib_le_fib_succ: ( (2 *F).fib:ℝ) ≤ (2 *F+1).fib)]

**Review by mo271 — APPROVED** [review]
LGTM!
